US06015829
To a solution (17 ml) of ethyl 5-amino-1-(3-cyano-4-neopentyloxyphenyl)pyrazole-4-carboxylate (1.7 g) in ethanol was added 2 N aqueous sodium hydroxide solution (3 ml) with stirring, and the mixture was refluxed under heating for 2 hours. After the completion of the reaction, the reaction mixture was poured into water and neutralized with acetic acid. The precipitated crystals were recrystallized from a mixed solvent of dioxane and water to give 0.64 g of 5-amino-1-(3-cyano-4-neopentyloxyphenyl)pyrazole-4-carboxylic acid, melting point 212° C. (decomposition).

reactant | ethyl 5-amino-1-(3-cyano-4-neopentyloxyphenyl)pyrazole-4-carboxylate | 17 ml, 1.7 g | NC1=C(C=NN1C1=CC(=C(C=C1)OCC(C)(C)C)C#N)C(=O)OCC | C18H22N4O3
reactant | sodium hydroxide | 2 N, 3 ml | [OH-].[Na+]
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | 5-amino-1-(3-cyano-4-neopentyloxyphenyl)pyrazole-4-carboxylic acid | 0.64 g | NC1=C(C=NN1C1=CC(=C(C=C1)OCC(C)(C)C)C#N)C(=O)O | C16H18N4O3
